US04370328
4,5-Dimethoxyphthalaldehydic acid (10 g.) and hydrazine hydrate (2.4 ml.) in ethanol (150 ml.) were heated under reflux for 20 hours during which time a white crystalline solid formed. The mixture was cooled in an ice bath, filtered and the resulting product dried to give crude 6,7-dimethoxyphthalazin-1-one (7 g.). A sample was crystallized from water yielding colorless needles, m.p. 254°-256° C.

reactant | 4,5-Dimethoxyphthalaldehydic acid | 10 g | COC=1C=C(C(C(=O)O)=CC1OC)C=O | C10H10O5
reactant | hydrazine hydrate | 2.4 ml | O.NN
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 6,7-dimethoxyphthalazin-1-one | 7 g | COC=1C=C2C=NNC(C2=CC1OC)=O | C10H10N2O3
